US06969723B2
b.) 2-Amino-3-cyano-4-benzylaminoquinoline
5 g of 2-amino-3-cyano4-chloroquinoline and 11 ml of benzylamine are heated under stirring at 130° C. The reaction mixture is poured onto 50 ml of water, the resulting precipitate is filtered off, washed with 50 ml of water. The pale-yellow precipitate is recrystallized from dimethylformamide to obtain 5.2 g of the title compound.

reactant | 2-amino-3-cyano4-chloroquinoline | 5 g | NC1=NC2=CC=CC=C2C(=C1C#N)Cl | C10H6ClN3
reactant | benzylamine | 11 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | water | 50 ml | O | H2O
product | 2-Amino-3-cyano-4-benzylaminoquinoline | 5.2 g | NC1=NC2=CC=CC=C2C(=C1C#N)NCC1=CC=CC=C1 | C17H14N4
